US06355615B1
Similar to Example 1, 4.75 g (5 mmol) of PF 1022 in 10 ml of THF were reacted with 100 ml of a 1 M solution of borane and worked-up. Chromatography gave 0.75 g (17% of theory) of tetrareduction product 8,20-dibenzyl-5,11,17,23-tetraisobutyl-2,4,10,14,16,22-hexamethyl-1,7,13,19-tetraoxa-4,10,16,22-tetraazacyclotetracosan-6,12,18,24-tetraone as a light-yellow viscous oil.

reactant | 8,20-dibenzyl-5,11,17,23-tetraisobutyl-2,4,10,14,16,22-hexamethyl-1,7,13,19-tetraoxa-4,10,16,22-tetraaza-cyclotetracosan-3,6,9,12,15,18,21,24-octaone | 5 mmol, 4.75 g | C(C1=CC=CC=C1)C1OC(C(N(C(C(OC(C(N(C(C(OC(C(N(C(C(OC(C(N(C1=O)C)CC(C)C)=O)C)=O)C)CC(C)C)=O)CC1=CC=CC=C1)=O)C)CC(C)C)=O)C)=O)C)CC(C)C)=O | C52H76N4O12
reactant | borane | B | BH3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 8,20-dibenzyl-5,11,17,23-tetraisobutyl-2,4,10,14,16,22-hexamethyl-1,7,13,19-tetraoxa-4,10,16,22-tetraazacyclotetracosan-6,12,18,24-tetraone | C(C1=CC=CC=C1)C1OC(C(N(CC(OC(C(N(CC(OC(C(N(CC(OC(C(N(C1)C)CC(C)C)=O)C)C)CC(C)C)=O)CC1=CC=CC=C1)C)CC(C)C)=O)C)C)CC(C)C)=O | C52H84N4O8
